datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([C@@H]2CC[N:12]3C4=C(C=CC=C4)[S:62][C:11]3=[N:10]2)C=C1.C1C[C:20](=[O:21])C1>>C1=CC=C([C@@H]2CC[N+:12]3=[C:11]([N:10]2[C:20]2([O-:21])CCC2)[S:62]C2=C3C=CC=C2)C=C1 10,11=10,20;12=11,12;20,21=21"
COCC[NH:10]CCOC.C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>COCC[NH+:10](CCOC)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](C)[CH:57]=[CH:58]1 10=20
"C1=CC=C(C[N+:23](CC2=CC=CC=C2)=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.C1=CC=C([Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1>>C1=CC=C(C[N:23](CC2=CC=CC=C2)[CH:22]=[CH:21][CH:20]([CH2:10][CH+:11][CH2:62][Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)(C)C)=[O:23].CO[C:72]1=[CH:73][CH:64]=[CH:63][C:62]2=[C:61]1[CH:10]=[CH:11][NH:12]2>>CO[C:72]1=[CH:73][CH:64]=[CH:63][C:62]2=[C:61]1[CH:10]([N:20]([N:21]=[C:22]([O-:23])[O:33]C(C)(C)C)[C:41](=[O:42])[O:43]C(C)(C)C)[CH:11]=[NH+:12]2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[NH:10][OH:61].N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>C[NH+:10]([CH:20]1[C:21](C#N)=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)[OH:61] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:63]([NH:12][C:11]1=[CH:10]CCC1)=[O:64].F[S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34]>>C[C:63]([NH+:12]=[C:11]1CCC[CH:10]1[CH2:20][CH-:21][S:32](F)(=[O:33])=[O:34])=[O:64] 10,11=10,20;12=11,12;20,21=21"
"CC12C3(C)C4(C)C5(C)C1(C)[Os-2:11]2345(C#[O+])(C#[O+])[H:10].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1>>CC12C3(C)C4(C)C5(C)C1(C)[Os-:11]2345(C#[O+])C#[O+].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].[N:10]1=[CH:11][N-:12][C:61]([CH:72]=[O:73])=[CH:62]1>>CC[O:34][C:32]([C:21]([CH:20]([N:10]1[CH:11]=[N:12][C:61]([CH:72]=[O:73])=[CH:62]1)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][C:61]([CH:10]=[P:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:62].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>CC[O:72][C:61]([CH:10]([P+:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[CH2:20][C:31]12C3(C4=CC=CC=C4)[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])C#[O+])=[O:62] 10,11=10,20"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.[N-:10]1[C:61](=[O:62])[CH:74]=[CH:73][CH:72]=[CH:71]1>>C1=CC=C([S:32]([CH-:21][CH2:20][N:10]2[C:61](=[O:62])[CH:74]=[CH:73][CH:72]=[CH:71]2)(=[O:33])=[O:34])C=C1 10=20;20,21=21"
"C[C:63]([O:62][B-:11]([H:10])([O:72][C:73](C)=[O:74])[O:82][C:83](C)=[O:84])=[O:64].[O-][N+:22]([C:21]1=[CH:20]N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)=[O:23]>>C[C:63]([O:62][B:11]([O:72][C:73](C)=[O:74])[O:82][C:83](C)=[O:84])=[O:64].[O-][N+:22](=[C:21]1[CH:20]([H:10])N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].CC(C)[Si](C(C)C)(C(C)C)[N:12]1[CH:11]=[CH:10][CH:61]=[CH:62]1>>CC(C)[Si](C(C)C)(C(C)C)[N+:12]1=[CH:11][CH:10]([CH:20]([C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:61]=[CH:62]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]CC(C)(C)C[O:62]2)S1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C[CH:20]1C2C3C54>>CC1(C)C[O+:12]=[B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)[O:62]C1.CC1=CC=[C:10]([CH:20]2CC3C4C5C2[Fe-3:21]345(C#[O+])(C#[O+])C#[O+])S1 10,11=10,20;12=11,12;20,21=21"
C[N:10]1CCOCC1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>C[N+:10]1([C:20]([C:31]2=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]2)([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)CCOCC1 10=20
"C[C:62]1=[CH:61][N:10]=[CH:11][NH:12]1.Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>C[C:62]1=[CH:61][N:10]([C:20]2(Cl)[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]2=[O:33])[CH:11]=[NH+:12]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
